US05817603
N,N-Dimethyl-N'-[4-chloro-3-(2-chloro-ethoxycarbonylethenyl)-phenyl]-3,4,5,6-tetrahydrophthalamide (compound Ia.09)
1.39 ml of a 40% strength by weight aqueous dimethylamine solution were added to a solution of 3.9 g of N-[4-chloro-3-(2-chloro-2-ethoxycarbonylethenyl)phenyl]-3,4,5,6-tetrahydrophthalimide in 100 ml of acetonitrile at about 20° C. The mixture obtained was stirred for a further 20 hours at 20°-25° C., after which the solid formed was separated off, washed with petroleum ether and finally dried. Mp.: 161°-164° C.

reactant | dimethylamine | CNC | C2H7N
reactant | N-[4-chloro-3-(2-chloro-2-ethoxycarbonylethenyl)phenyl]-3,4,5,6-tetrahydrophthalimide | 3.9 g | ClC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)C=C(C(=O)OCC)Cl | C19H17Cl2NO4
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | N,N-Dimethyl-N'-[4-chloro-3-(2-chloro-ethoxycarbonylethenyl)-phenyl]-3,4,5,6-tetrahydrophthalamide | CN(C(C1=C(C(=O)NC2=CC(=C(C=C2)Cl)C=C(Cl)C(=O)OCC)CCCC1)=O)C | C21H24Cl2N2O4
